US05318966
A solution of 6.30 g (0.024 mol) of ethyl rac-1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-napthylacetate in 100 ml of toluene was treated with 3.1 ml (0.024 mol) of 4-(2-aminoethyl)morpholine, whereupon the mixture was boiled on a water separator for 20 hours. After concentration the residue was hydrogenated with 1 g of Raney-nickel in 100 ml of ethanol at 120° and 180 bar. The product was chromatographed over silica gel with methylene chloride/methanol (9:1). There were obtained 6.80 g (86%) of oily rac-cis-1,3,3a, 4,5,9b-hexahydro-6-methoxy-3-(2-morpholinoethyl)-2H-benzo[e]indol-2-one.

reactant | ethyl rac-1,2,3,4-tetrahydro-5-methoxy-2-oxo-1-napthylacetate | 0.024 mol, 6.30 g | COC1=C2CCC(C(C2=CC=C1)CC(=O)OCC)=O | C15H18O4
reactant | 4-(2-aminoethyl)morpholine | 0.024 mol, 3.1 ml | NCCN1CCOCC1 | C6H14N2O
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | rac-cis-1,3,3a, 4,5,9b-hexahydro-6-methoxy-3-(2-morpholinoethyl)-2H-benzo[e]indol-2-one | 6.80 g, 86% | COC1=CC=CC=2[C@H]3CC(N([C@H]3CCC21)CCN2CCOCC2)=O | C19H26N2O3
